US07399759B2
4-Bromothiosalicylic acid
A mixture of methyl 4-bromo-2-[[(dimethylamino)carbonyl]thio]benzoate (3.2 g, 10 mmol) and 10% aqueous sodium hydroxide solution (20 g, 50 mmol) was stirred at 100° C. for 14 hrs. The reaction mixture was acidified (pH 3) by the addition of 6 N hydrochloric acid. The precipitates were collected by filtration, dissolved in ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (2.3 g, 100%) as white crystals.

reactant | methyl 4-bromo-2-[[(dimethylamino)carbonyl]thio]benzoate | 10 mmol, 3.2 g | BrC1=CC(=C(C(=O)OC)C=C1)SC(=O)N(C)C | C11H12BrNO3S
reactant | sodium hydroxide | 50 mmol, 20 g | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 4-Bromothiosalicylic acid | 2.3 g, 100% | BrC=1C=C(C(C(=O)O)=CC1)S | C7H5BrO2S
